* Z:\home\johannes\eagle\homecontroller\LTSpice-Simu\Analog_IN_0-10V.asc
R1 N006 N001 9.76k
R2 N006 0 5.49k
V1 N002 0 5 Rser=0
V2 N001 0 10 Rser=0
XU1 N003 N006 0 N002 N004 OPA170
R3 N004 N003 49.9
R4 N005 N004 590
R5 0 N005 590
.tran 1
.lib OPA170.sub
.backanno
.end
